US04000275
Benzimidazo[2,1-b]quinazolin-12(6H)one, 7.05 g. in 200 ml. of dry dimethylformamide was converted to the sodium derivative with sodium hydride according to the procedures described in previous examples and 2,4-dimethylbenzoyl chloride, 5.8 g. in 25 ml. of dimethylformamide were added dropwise with vigorous stirring. The reaction mixture was stirred for an additional hour and then poured into ice water. The precipitate which formed was filtered, washed with water, dried and twice recrystallized from benzene to yield 6-(2,4-dimethylbenzoyl)benzimidazo[2,1-b]quinazolin-12(6H)one as a crystalline solid melting at about 213°-214° C.

reactant | Benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-dimethylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC(=C1)C | C9H9ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(2,4-dimethylbenzoyl)benzimidazo[2,1-b]quinazolin-12(6H)one | CC1=C(C(=O)N2C3=C(C=CC=C3)N3C2=NC2=CC=CC=C2C3=O)C=CC(=C1)C | C23H17N3O2
